US04264532
Preparation of ethyl 3,3-diethoxypropylmethylphosphinate
Into a 100 ml. red flask was introduced 12.5 g. of acrolein, and 15 mg. of hydroquinone and 45 ml. of anhydrous ethyl alcohol were added thereto. The resulting mixture was stirred at -10° C. in a stream of nitrogen and then 13.6 g. of diethyl methylphosphonite was added dropwise thereto over 20 minutes. After stirring further for 30 minutes at the same temperature, the mixture was stirred for 2 hours at 0° C. and subsequently for 4 hours at room temperature, followed by further reaction at 70° C. for 12 hours. After the reaction mixture thus obtained was concentrated by evaporation of the ethanol under reduced pressure, the residue was subjected to distillation under reduced pressure to give a fraction boiling at 85° to 91° C./0.17 mmHg. and thus was obtained 12.2 g. of a light-yellow oil of ethyl, 3,3-diethoxypropylmethylphosphinate.

reactant | acrolein | C(=O)C=C | C3H4O
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | diethyl methylphosphonite | CP(OCC)OCC | C5H13O2P
reactant | 3,3-diethoxypropylmethylphosphinate | C(C)OC(CCP([O-])(=O)C)OCC
solvent | ethyl alcohol | C(C)O | C2H6O
product | ethyl 3,3-diethoxypropylmethylphosphinate | C(C)OC(CCP(OCC)(=O)C)OCC | C10H23O4P
